US09238640B2
A mixture of 4-bromobenzaldehyde (0.250 g, 1.40 mmol), methanesulfonamide (0.154 g, 1.62 mmol), copper iodide (0.0510 g, 0.270 mmol), N,N-dimethylglycine (0.0280 g, 0.270 mmol), and potassium phosphate tribasic (0.716 g, 3.38 mmol) in DMF (5.00 mL) was stirred at reflux for 16 hours. The mixture was diluted with EtOAc (50 mL), washed with water (50 mL), and then saturated aqueous LiCl (5 mL). The combined aqueous layers were then back-extracted with EtOAc (50 mL). The organic layers were combined, washed with brine (50 mL), dried over Na2SO4, filtered, and the solvent was removed under reduced pressure, to provide N-(4-formylphenyl)methanesulfonamide (0.161 g, 58%) as a yellow oil.

reactant | 4-bromobenzaldehyde | 1.40 mmol, 0.250 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | methanesulfonamide | 1.62 mmol, 0.154 g | CS(=O)(=O)N | CH5NO2S
reactant | N,N-dimethylglycine | 0.270 mmol, 0.0280 g | CN(CC(=O)O)C | C4H9NO2
reactant | potassium phosphate tribasic | 3.38 mmol, 0.716 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 5.00 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | copper iodide | 0.270 mmol, 0.0510 g | [Cu](I)I
product | N-(4-formylphenyl)methanesulfonamide | 0.161 g, 58% | C(=O)C1=CC=C(C=C1)NS(=O)(=O)C | C8H9NO3S
